US09145415B2
To a solution of 4-iodocrotonic acid tert-butyl ester (310 mg) synthesized according to the method described in Journal of Medicinal Chemistry, 2005, vol. 48, pp. 1107-1131 in tetrahydrofuran (3 mL), morpholine (200 μL) was added under ice cooling, and the mixture was stirred at room temperature for 13 hours. To the reaction mixture, saturated aqueous sodium hydrogencarbonate and ethyl acetate were added. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain (E)-tert-butyl 4-morpholino-2-butenoate (B14, 180 mg).

reactant | 4-iodocrotonic acid tert-butyl ester | 310 mg | C(C)(C)(C)OC(\C=C\CI)=O | C8H13IO2
reactant | morpholine | 200 μL | N1CCOCC1 | C4H9NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (E)-tert-butyl 4-morpholino-2-butenoate | 180 mg | O1CCN(CC1)C/C=C/C(=O)OC(C)(C)C | C12H21NO3
